US07081330B2
Examples of the sugar alcohols are D, L-arabitol, ribitol, xylitol, D, L-sorbitol, D, L-mannitol, D, L-iditol, D, L-talitol, meso-inositol, dulcitol, and allodulcitol. Further, maltitol obtained by subjecting disaccharides to hydrogenation and reductants (e.g., reduced starch syrup) obtained by subjecting oligosaccharides to hydrogenation are also preferred.

reactant | L-arabitol | C([C@@H](C([C@H](CO)O)O)O)O | C5H12O5
reactant | ribitol | C([C@H](O)[C@H](O)[C@H](O)CO)O | C5H12O5
reactant | xylitol | C([C@H](O)[C@@H](O)[C@H](O)CO)O | C5H12O5
reactant | L-sorbitol | OC[C@@H](O)[C@H](O)[C@@H](O)[C@@H](O)CO | C6H14O6
reactant | L-mannitol | C([C@H](O)[C@H](O)[C@@H](O)[C@@H](O)CO)O | C6H14O6
reactant | L-iditol | C([C@H](O)[C@@H](O)[C@H](O)[C@@H](O)CO)O | C6H14O6
reactant | L-talitol | C([C@H](O)[C@H](O)[C@H](O)[C@@H](O)CO)O | C6H14O6
reactant | meso-inositol | [C@@H]1([C@@H]([C@@H]([C@@H]([C@H]([C@@H]1O)O)O)O)O)O | C6H12O6
reactant | dulcitol | C([C@H]([C@@H]([C@@H]([C@H](CO)O)O)O)O)O | C6H14O6
reactant | allodulcitol | C([C@H]([C@H]([C@H]([C@H](CO)O)O)O)O)O | C6H14O6
product | maltitol | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@H]([C@@H](CO)O)[C@@H]([C@H](CO)O)O)O)O)O)O | C12H24O11
